US09212182B2
A 40-mL vial containing 4-bromo-2-(difluoromethoxy)-1-fluorobenzene (1.00 g, 4.15 mmol) (purchased from Combi-Blocks, Inc.), 1,1′-bis(diphenylphosphino)ferrocene palladium(II)dichloride dichloromethane adduct (0.169 g, 0.207 mmol), bis(pinacolato)diboron (1.159 g, 4.56 mmol), and potassium acetate (1.222 g, 12.45 mmol) was flushed with N2 and subsequently charged with dioxane (4 mL). The slurry was stirred at 90° C. for 3.5 h. After cooling to rt, the reaction was quenched with H2O and extracted thrice with EtOAc. The organic extracts were combined, washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to a black oil. Column chromatography (25 g Snap Ultra column, 0% to 100% EtOAc/hept) afforded 2-(3-(difluoromethoxy)-4-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (178 mg, 0.618 mmol, 14.89% yield) as a brown-black oil. m/z (ESI) 289.2 (M+H)+.

reactant | 4-bromo-2-(difluoromethoxy)-1-fluorobenzene | 4.15 mmol, 1.00 g | BrC1=CC(=C(C=C1)F)OC(F)F | C7H4BrF3O
reactant | bis(pinacolato)diboron | 4.56 mmol, 1.159 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 12.45 mmol, 1.222 g | C(C)(=O)[O-].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium(II)dichloride dichloromethane | 0.207 mmol, 0.169 g | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-(difluoromethoxy)-4-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.618 mmol, 178 mg, 14.89% yield | FC(OC=1C=C(C=CC1F)B1OC(C(O1)(C)C)(C)C)F | C13H16BF3O3
